US04960884
To a stirred, cold (0° C.) solution of 5.2 grams (0.016 mole) 1-triphenylphosphoranylidene-2-propanone in 50 ml of dry tetrahydrofuran was added dropwise a solution of 3.4 grams (0.015 mole) of 2,3-di(2-fluoroethoxy)benzaldehyde in 25 ml of dry tetrahydrofuran. After complete addition the reaction mixture was allowed to warm to room temperature and was then heated at reflux for three hours. The mixture was cooled to room temperature and stirred for approximately 18 hours. The solvent was removed by evaporation under reduced pressure leaving a residue. This residue was partitioned between diethyl ether and water. The organic phase was washed with an aqueous, saturated sodium chloride solution. The washed organic phase was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure leaving a brown residue. This residue was purified by column chromatography on silica gel, eluting with acetone:n-heptane (20:80), to yield 2.3 grams of 3-(methylcarbonylethenyl)-1,2-di(2-fluoroethoxy)benzene as a solid, mp 71°-72° C.

reactant | 1-triphenylphosphoranylidene-2-propanone | 0.016 mole, 5.2 grams | C1(=CC=CC=C1)P(=CC(C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
reactant | 2,3-di(2-fluoroethoxy)benzaldehyde | 0.015 mole, 3.4 grams | FCCOC1=C(C=O)C=CC=C1OCCF | C11H12F2O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 3-(methylcarbonylethenyl)-1,2-di(2-fluoroethoxy)benzene | 2.3 grams | CC(=O)C=CC=1C(=C(C=CC1)OCCF)OCCF | C14H16F2O3
